US05077304
11.9 g of 2,4-diisopropyl-6-(4-chlorophenoxy)-3-nitropyridine are dissolved in 120 ml of tetrahydrofuran and, after the addition of 12 g of Raney nickel (suspended in ethanol), hydrogenated under normal pressure at from +30° C. to +35° C. The reaction mixture is filtered over diatomaceous earth and the filtrate is concentrated. The residue is purified by column chromatography on silica gel (eluant: ethyl acetate/hexane 1:3). 2,4-Diisopropyl-6-(4-chlorophenoxy)-3-aminopyridine is obtained in the form of a light-yellow crystalline powder, m.p. 86°-88° C.

reactant | 2,4-diisopropyl-6-(4-chlorophenoxy)-3-nitropyridine | 11.9 g | C(C)(C)C1=NC(=CC(=C1[N+](=O)[O-])C(C)C)OC1=CC=C(C=C1)Cl | C17H19ClN2O3
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 12 g | [Ni] | Ni
product | 2,4-Diisopropyl-6-(4-chlorophenoxy)-3-aminopyridine | C(C)(C)C1=NC(=CC(=C1N)C(C)C)OC1=CC=C(C=C1)Cl | C17H21ClN2O
